US04849424
In anhydrous tetrahydrofuran, 173 mg of 2-chloro-4-ethoxy-6-methylpyrimidine was substituted with 68 mg of pyrazole. The reaction mixture was treated according to the procedure of Example 5 to yield 110 mg of 4-ethoxy-6-methyl-2-(1-pyrazolyl)pyrimidine, an oily compound.

reactant | 2-chloro-4-ethoxy-6-methylpyrimidine | 173 mg | ClC1=NC(=CC(=N1)OCC)C | C7H9ClN2O
reactant | pyrazole | 68 mg | N1N=CC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-ethoxy-6-methyl-2-(1-pyrazolyl)pyrimidine | 110 mg | C(C)OC1=NC(=NC(=C1)C)N1N=CC=C1 | C10H12N4O
